US09340538B2
Ethyl 4-(2,4-dichlorophenyl)-6-(((S)-2-(hydroxymethyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.95 g, 2 mmol) was reacted with (S)-morpholin-2-ylmethanol (0.34 g, 2.2 mmol) according to the procedure as described in Example 25, Step B to give the title compound as a yellow solid (0.34 g, 33%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 0.95 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C17H14BrCl2N3O2S
reactant | (S)-morpholin-2-ylmethanol | 2.2 mmol, 0.34 g | N1C[C@H](OCC1)CO | C5H11NO2
product | Ethyl 4-(2,4-dichlorophenyl)-6-(((S)-2-(hydroxymethyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.34 g, 33% | ClC1=C(C=CC(=C1)Cl)C1N=C(NC(=C1C(=O)OCC)CN1C[C@H](OCC1)CO)C=1SC=CN1 | C22H24Cl2N4O4S
